US08022208B2
N-(5-chloropyridin-2-yl)-2-[(4-{1-[2-(dimethylamino)ethyl]-2-oxopiperidin-3-yl}benzoyl)amino]-3-hydroxybenzamide (300 mg) was dissolved in dimethylformamide (6 mL), and with cooling with ice, an aqueous 32% peracetic acid solution (135 μL) was added, followed by stirring with cooling with ice for 30 minutes. The reaction solution was put into an aqueous saturated sodium hydrogencarbonate solution (30 ml), followed by extraction with chloroform. The organic layer was dried with sodium sulfate and evaporated under reduced pressure to obtain N-(5-chloropyridin-2-yl)-2-[(4-{1-[2-(dimethylnitroryl)ethyl]-2-oxopiperidin-3-yl}benzoyl)amino]-3-hydroxybenzamide (210 mg). The resulting N-(5-chloropyridin-2-yl)-2-[(4-{1-[2-(dimethylnitroryl)ethyl]-2-oxopiperidin-3-yl}benzoyl)amino]-3-hydroxybenzamide (209 mg) was dissolved in dimethylformamide (3 mL), then at room temperature, water (3 ml), benzoic acid (46 mg) and an aqueous 1 M iron chloride solution (38 μL) were added, followed by stirring at room temperature for 2 hours. An aqueous saturated sodium hydrogencarbonate solution was added to the reaction mixture, followed by extraction with chloroform. The organic layer was evaporated under reduced pressure, and the residue was purified by NH-silica gel column chromatography (chloroform:methanol=100:0 to 95:5). The purified product was dissolved in ethanol, and 4 M hydrochloric acid/ethyl acetate solution (1 mL) was added, followed by evaporation under reduced pressure. Ethyl acetate was added to the residue, followed by stirring at room temperature for 1 hour. The precipitate formed was collected by filtration and dried at 40° C. under reduced pressure to obtain N-(5-chloropyridin-2-yl)-3-hydroxy-2-[(4-{1-[2-(methylamino)ethyl]-2-oxopiperidin-3-yl}benzoyl)amino]benzamide hydrochloride (108 mg) as a white solid.

reactant | N-(5-chloropyridin-2-yl)-2-[(4-{1-[2-(dimethylnitroryl)ethyl]-2-oxopiperidin-3-yl}benzoyl)amino]-3-hydroxybenzamide | 209 mg | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C1C(N(CCC1)CC[N+]([O-])(C)C)=O)=O)=O | C28H30ClN5O5
reactant | water | 3 ml | O | H2O
reactant | benzoic acid | 46 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | iron chloride | 1 M, 38 μL | [Fe](Cl)Cl
product | N-(5-chloropyridin-2-yl)-3-hydroxy-2-[(4-{1-[2-(methylamino)ethyl]-2-oxopiperidin-3-yl}benzoyl)amino]benzamide hydrochloride | 108 mg | Cl.ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C1C(N(CCC1)CCNC)=O)=O)=O | InChI=1S/C27H28ClN5O4.ClH/c1-29-13-15-33-14-3-5-20(27(33)37)17-7-9-18(10-8-17)25(35)32-24-21(4-2-6-22(24)34)26(36)31-23-12-11-19(28)16-30-23;/h2,4,6-12,16,20,29,34H,3,5,13-15H2,1H3,(H,32,35)(H,30,31,36);1H
